Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___  incarcerated ___ male 
with difficult to control hypertension, chronic kidney disease 
Stage II who was admitted with chest pain. He states he was in 
his usual state of health until ___ days ago, when he had some 
difficulties in the ___ Jail where he lives and stopped 
taking his medications. On the day of admission, ___ at ~6:00 
___ he complained of ___ substernal, oppresive chest pain that 
radiated towards his left shoulder and down his left arm.  He 
denies association with SOB, palpitation, lightheadedness, 
diziness, nausea, vomiting or diaphoresis. His BP was reported 
as "very high". He received SL nitroglycerin x2, an had an EKG 
that was read by EMS as ST elevations. Code STEMI was called, he 
recived ASA and he was brought emergently to our ER.  

In the ER his VS were: BP 203/135, RR 18, 100% on RA, HR ___. 
His BP slowly trended down up to 140s with nitroglycerin gtt and 
metoprolol IV 5 mg X1. Pt received a total of 500cc of NS. Pt 
received morphine 8 mg IV for pain control. His initial EKG 
showed STE ~1mm in V1-V3 with signs of LVH and TWI in V4-V6. 
Cardiac enzymes were Trop-T: <0.01, CK: 539 MB: 4. Pt received 
plavix 600 mg x1, heparin bolus, heparin gtt and nitro gtt.  He 
became chest pain free once his BP was controlled. Cardiology 
was consulted and performed Echocardiogram that showed no wall 
motion abnormalities. They thought his EKG showed LVH with 
strain pattern. Heparin was then discontinued.  A chest X-ray 
done in ED showed a dilated cardiac silhouette without effusions 
or pulmonary edema.  In ED, he had a CTA that ruled out PE and 
aortic disection. Serum tox was negative. He was admitted to 
rule out myocardial infarction. 
VS prior to transfer VS: BP 149/94 mmHg, HR 74 BPM, RR 22, SpO2 
99% RA.  
 
On review of systems, he denied any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors.
 
Past Medical History:
-Dyslipidemia
-Hypertension 
-Chronic kidney disease (stage II)
-? prior MI by echocardiogram
-incarcerated 

*he has had multiple admissions for chest pain and usually goes 
to ___ or ___
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. He has 1 uncle with MI in ___. Mother died 
of chronic kidney disease due to diabetes. Sister and brother 
with strokes in mid-late ___. Brother with ___ on ESRD HD.  
Father with breast cancer in late ___. States everyone in his 
family has HTN. 

 
Physical Exam:
VITAL SIGNS - T 98.2 F, BP 176/112 mmHg, HR 52 BPM, RR 16  SaO2 
100% RA  

GENERAL: well-appearing muscular ___ man in NAD, 
accompanied by two uniformed officers in his room
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear, 
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. 
No xanthalesma.  
NECK: supple, no thyromegaly, JVP 8 cm, no carotid bruits  
LUNGS:CTA bilaterally, good air movement, resp unlabored, no 
wheezes 
CV: regular rhythm, bradycardic rate RR, normal S1, S2. S3 
present, no m/r. No thrills, lifts.  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding. Abd aorta not enlarged by palpation. No 
abdominial bruits.  
EXTREMITIES- no cyanosis or edema. No femoral bruits. Some 
swelling over B/L ankles; b/l ankles in shackles/chains. 
SKIN - no rashes or lesions 
NEURO - awake, A&Ox3, CNs II-XII grossly intact and symmetrical 
b/l, visual fields full to confrontation, muscle strength ___ 
B/L UE and ___, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, gait not assessed

PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+

___:  Upon dischage, exam was unchanged EXCEPT FOR 2cm lymph 
node palpable in left submandibular region.  Non-tender and 
freely mobile.  Patient should have this followed up with 
outpatient PCP.
 
Pertinent Results:
___ 07:40PM   CK(CPK)-539*
___ 07:40PM   cTropnT-<0.01

___ TTE: moderate symmetric LVH. The LV cavity size normal. 
Regional LV wall motion is normal. Overall LV systolic function 
is normal (LVEF>55%). The RV free wall is hypertrophied with 
normal free wall contractility. The AV is not well seen. The MV 
leaflets are structurally normal. No MR is seen. There is no 
pericardial effusion

___ CTA: No dissection, aneurysm or PE

Stress:  No anginal symptoms or additional ST or T waves changes 
from 
baseline. Nuclear report to be sent seperately.

Nuclear study:  1. Normal myocardial perfusion. 2. Left 
ventricular enlargement, normal left ventricular systolic 
function. LVEF=53%.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old ___ gentleman admitted 
for chest pain exacerbated by hypertensive urgency.
.
1. CHEST PAIN- The etiology of his chest pain could be 
attributed to demand ischemia from hypertensive urgency. This 
was unlikely an acute coronary syndrome given negative cardiac 
enzymes x3 (troponins <0.01) and no changes from baseline EKG 
(which shows LVH with strain pattern). A transthoracic echo was 
conducted to assess for any wall motion abnormalities, and was 
negative. A nuclear stress test was done on ___ which showed no 
anginal symptoms or additional ST or T waves changes from 
baseline.  Persantine study showed: Normal myocardial perfusion. 
2. Left ventricular enlargement, normal left ventricular 
systolic function. LVEF=53%.  Patient remained chest pain free 
throughout duration of admission after his blood pressure was 
controlled.  He was discharged to ___ in stable 
condition.
.
2. HYPERTENSION-  This patient has difficult to control 
hypertension and came in on multiple anti-hypertensive drugs 
including Lisinopril 20mg daily, Labetalol 400mg TID, Amlodipine 
10mg daily, HCTZ 25mg daily, and Catapres 0.1mg weekly patch.  
On ___, even after receiving all medications, Mr. ___ 
systolic BP was in the 180s and he complained of headache. 
Lisinopril was increased to 40mg daily and Clonidine patch was 
pulled. Clonidine 0.1mg PO TID was instead added to his regimen. 
On ___, Clonidine was changed to 0.2mg PO TID as patient's 
systolic blood pressure was still in the 160s.  Prior to stress 
on ___, patient's BP was 159/108 and HR in ___.  Hi 
lisinopril was increased to 40mg BID and his clonidine was 
increased to 0.3mg TID during admission.  Two clonidine patches 
of 0.3mg/24 hours each were placed on ___: this regimen is 
roughly equal to 0.3mg po clonidine TID and will hopefully 
increase compliance.  He does not need to take oral clonidine in 
jail, just change the patches every week on ___.  Patient 
remained asymptomatic from HTN aside from occasional headaches.  
He should have his blood pressure checked EVERY DAY in prison 
and prison physician should be notified if patient is 
symptomatic or if BP is greater than 180/110.
.
CHRNOIC KIDNEY DISEASE:  Creatinine around baseline on discharge 
of 1.4.  Most likely etiology of ___ is hypertension.  Calcium, 
phospate within normal limits.  Lisinopril was increased as 
above at attending's discretion.  Hgb A1C was still pending upon 
discharge.
.
DYSLIPIDEMIA:  Atorvastatin 40mg daily was continued.  Lipid 
panel was within normal limits.
.
Patient was monitored by 2 prison guards throughout admission.  
He was put on a heart healthy diet.  Patient was given heparin 
subcu for DVT prophylaxis and a bowel regimen.  He was 
discharged to prison in stable condition. 
 
Medications on Admission:
1. Lisinopril 20mg PO daily (HS)
2. Lipitor 40mg PO daily
3. Catapres 0.1mg TD qweekly
4. Labetalol 400mg PO TID
5. Amlodipine 10mg PO daily
6. HCTZ 25mg PO daily
7. Fioricet 50/325/40 1 tab QID PRN headache
 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Labetalol 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
3. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Butalbital-Acetaminophen-Caff 50-325-40 mg Tablet Sig: ___ 
Tablets PO Q4H (every 4 hours) as needed for headache.  
7. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
8. Clonidine 0.3 mg/24 hr Patch Weekly Sig: Two (2)  Transdermal 
once a week: Please put on two patches (0.3mg each) every week.
Disp:*1 8* Refills:*2*
9. Daily blood pressure checks
Please do daily blood pressure checks on this patient.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: chest pain, hypertensive urgency
SECONDARY: chronic kidney disease
 
Discharge Condition:
stable, pain improved
 
Discharge Instructions:
You were admitted to the hospital with chest pain and high blood 
pressure.  Your chest pain abated when your blood pressure was 
better controlled.  Your blood tests were negative for a heart 
attack.  Throughout this admission, we tried to better control 
your blood pressure.  We increased your lisinopril and clonidine 
patch.  All other medications remained the same.
.
A trans-thoracic echo was done, which showed a LVEF >55%.  
Tissue doppler showed increased left ventricular filling 
pressure.  There was moderate symmetric left ventricular 
hypertrophy.
.
A stress on ___ showed no anginal symptoms or additional ST or 
T waves changes from baseline.  Nuclear stress showed:  Normal 
myocardial perfusion. 2. Left ventricular enlargement, 
normal left ventricular systolic function. LVEF=53%. 
.
Your medications have changed as follows:
1. INCREASED lisinopril from 20mg a day to 40mg twice a day
2. INCREASED clonidine from 0.1mg/24 hours to TWO 0.3mg patches 
each week.  Keep the patches on for 1 week then replace them 
every ___.
.
You will need to take your second dose of lisinopril 40mg on day 
of discharge in the evening, ___.  The clonidine patches were 
placed in the hospital on ___.  You should change them next 
___.
.
You will need to have your blood pressure checked daily in the 
morning.  If your BP is greater than 180 systolic or 110 
diastolic, the prision physician must be notified.
.
Upon discharge from the hospital you had a 2cm lymph node, 
freely mobile, non-tender, in the left submandibular area.  This 
is most likely "reactive" in nature but the prison physician 
should follow this up to make sure it resolves.
.
Please call your doctor or return to the emergency room if you 
experience crushing chest pains, headaches with nausea, vomiting 
and visual changes, difficulty breathing, seizures/loss of 
consciousness, blood in your urine vomit or stool or any other 
concerning medical symptom.
 
Followup Instructions:
___